US05908841
A solution of 5,11-dihydro-11-ethyl-2-methoxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.181 g) in acetic acid (1 mL) and 48% HBr in acetic acid (1 mL) was heated at 110° C. for 10 minutes. The mixture was cooled, neutralized with saturated sodium bicarbonate, and extracted with chloroform. The organic phase was dried, filtered and evaporated to give 5,11-dihydro-11-ethyl-2-hydroxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.176 g) which was used directly in the next reaction.

reactant | 5,11-dihydro-11-ethyl-2-methoxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.181 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OC | C16H17N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | HBr | Br | BrH
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 5,11-dihydro-11-ethyl-2-hydroxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.176 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)O | C15H15N3O2
